US09212190B2
Synthesis of (2S)-3-[(3R)-12-[[4-(ethylamino)cyclohexyl]oxy]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-3-yl]-2-hydroxypropanamide (I-136)
Into a 50-mL round-bottom flask was placed a solution of tert-butyl N-(4-[[(3R)-3-[(2S)-2-[(tert-butyldimethylsilyl)oxy]-2-carbamoylethyl]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-12-yl]oxy]cyclohexyl)-N-ethylcarbamate (160 mg, 0.26 mmol, 1.00 equiv) and hydrogen chloride (conc.) (0.3 mL) in dichloromethane (3 mL). The resulting solution was stirred for 1 h at 0° C. The resulting mixture was concentrated under vacuum. The crude product (200 mg) was purified by preparative HPLC under the following conditions (1#-Pre-HPLC-015(Waters)): column: Xbridge Prep C18, 5 um, 19*50 mm; mobile phase: water with 50 mmol NH4HCO3 and CH3CN (10% CH3CN up to 25% in 10 min, up to 95% in 1.5 min, down to 10% in 1.5 min); detector: 254/220 nm. 47.3 mg product was obtained. This resulted in 47.3 mg (45%) of (2S)-3-[(3R)-12-[[4-(ethylamino)cyclohexyl]oxy]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-3-yl]-2-hydroxypropanamide as a white solid. MS: m/z 405 (M+H)+. 1H NMR (300 MHz, CD3OD): δ 8.474 (1H, s), 5.24-5.26 (1H, m), 4.08-4.12 (1H, d), 3.53 (1H, m), 3.04-3.28 (1H, m), 2.92-2.95 (1H, m), 2.50-2.71 (4H, m), 2.40-2.47 (2H, m), 2.15-2.23 (2H, m), 1.98-2.07 (2H, m), 1.61-1.96 (3H, m), 1.26-1.34 (2H, m).

reactant | tert-butyl N-(4-[[(3R)-3-[(2S)-2-[(tert-butyldimethylsilyl)oxy]-2-carbamoylethyl]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-12-yl]oxy]cyclohexyl)-N-ethylcarbamate | 0.26 mmol, 160 mg, 1.00 equiv | [Si](C)(C)(C(C)(C)C)O[C@@H](C[C@@H]1C=2C=3C(=NC=NC3SC2CC1)OC1CCC(CC1)N(C(OC(C)(C)C)=O)CC)C(N)=O | C31H50N4O5SSi
reactant | hydrogen chloride | 0.3 mL | Cl | ClH
reactant | water | O | H2O
reactant | CH3CN | CC#N | C2H3N
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | (2S)-3-[(3R)-12-[[4-(ethylamino)cyclohexyl]oxy]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-3-yl]-2-hydroxypropanamide | 47.3 mg | C(C)NC1CCC(CC1)OC1=NC=NC=2SC=3CC[C@@H](C3C12)C[C@@H](C(=O)N)O | C20H28N4O3S
